US09290451B2
a) 2-(Benzyloxycarbonylamino)-2-methylpropanoic acid
To a solution of 2-methylalanine (CAN 62-57-7, 30.9 g, 0.3 mol) and sodium hydroxide (20 g, 0.5 mol) in water (500 mL) was added benzyl chloroformate (61.4 g, 0.36 mol) at ice-water bath temperature. The reaction mixture was allowed to warm to room temperature and stirred overnight. The resulting solution was washed with ethyl acetate (2×80 mL), then the aqueous layer was adjusted to pH=2 with conc. hydrochloric acid and the solution was extracted with ethyl acetate (3×150 mL). The combined organic layers were dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the crude target compound (26 g, 36%) which was used directly for the next step without further purification; MS: m/e 238.0 [M+H]+.

reactant | 2-methylalanine | 0.3 mol, 30.9 g | CC(N)(C)C(=O)O | C4H9NO2
reactant | sodium hydroxide | 0.5 mol, 20 g | [OH-].[Na+]
reactant | benzyl chloroformate | 0.36 mol, 61.4 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 500 mL | O | H2O
product | 2-(Benzyloxycarbonylamino)-2-methylpropanoic acid | 26 g, 36% | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(C)C | C12H15NO4
